US07091214B2
1-(2-Methylpropyl)-8-(2-pyridin-4-ylvinyl)-1H-imidazo[4,5-c]-quinolin-4-amine (2.1 g, 6.1 mmol) was treated according to the method described in Example 123; the reaction was allowed to run for seven days. An analysis by proton nuclear magnetic resonance spectroscopy indicated the presence of starting material in the purified product. The product mixture was dissolved in methanol (100 mL), and 10% palladium on carbon (200 mg) was added. The reaction was placed under hydrogen pressure (40 psi, 2.8×105 Pa) for four days, and the product was isolated as described in Example 123. The crude product was purified by flash column chromatography on silica gel (eluting with 90:10 chloroform:CMA) followed by recrystallization from acetonitrile to provide 380 mg of 1-(2-methylpropyl)-8-(2-pyridin-4-ylethyl)-1H-imidazo[4,5-c]-quinolin-4-amine as pale, yellow crystals, mp 221–224° C.

reactant | 1-(2-Methylpropyl)-8-(2-pyridin-4-ylvinyl)-1H-imidazo[4,5-c]-quinolin-4-amine | 6.1 mmol, 2.1 g | CC(CN1C=NC=2C(=NC=3C=CC(=CC3C21)C=CC2=CC=NC=C2)N)C | C21H21N5
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | 1-(2-methylpropyl)-8-(2-pyridin-4-ylethyl)-1H-imidazo[4,5-c]-quinolin-4-amine | 380 mg | CC(CN1C=NC=2C(=NC=3C=CC(=CC3C21)CCC2=CC=NC=C2)N)C | C21H23N5
